US07696213B2
A flask containing a mixture of 5-bromo-4-chloro-6-methylpyrimidin-2-amine (34.8 mmol), 2,5-hexanedione (6.15 mL, 52.2 mmol), and p-toluenesulfonic acid (330 mg, 1.74 mmol) in toluene (100 mL) was fitted with a Dean-stark apparatus and condenser and the mixture was heated to reflux. After refluxing overnight the solution was cooled to room temperature and concentrated. The residue was slurried in hexanes, filtered and the filtrate was concentrated. The precipitate was purified by flash chromatography eluting with hexanes/chloroform (0-50%) to afford the 5-bromo-4-chloro-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidine (1.60 g, 15%). The concentrated filtrate was purified by flash chromatography eluting with hexanes/chloroform (10-40%) to afford 5-bromo-4-chloro-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidine (5.22 g, 50%).

reactant | 5-bromo-4-chloro-6-methylpyrimidin-2-amine | 34.8 mmol | BrC=1C(=NC(=NC1C)N)Cl | C5H5BrClN3
reactant | 2,5-hexanedione | 52.2 mmol, 6.15 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | p-toluenesulfonic acid | 1.74 mmol, 330 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-4-chloro-2-(2,5-dimethyl-1H-pyrrol-1-yl)-6-methylpyrimidine | 1.60 g, 15% | BrC=1C(=NC(=NC1C)N1C(=CC=C1C)C)Cl | C11H11BrClN3
